US07423031B2
A suspension of (7-Fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetyl azide, prepared as in reference 17, (10 mg, 0.33 mmol) and N,N-dimethylethylene-diamine (15 mg, 0.17 mmol) in dry toluene (1 mL) is heated at 110° C. for 1 hour. Toluene is removed in vacuum and the residue is purified by HPLC (C18 column, eluted with CH3CN/H2O with 0.5% TFA) to afford N-(2-dimethylamino-ethyl)-2-(7-fluoro-1-oxo-1,3,4,10-tetrahydro-2H-azepino[3,4-b]indol-5-ylidene)-acetamide; 1H NMR (DMSO-d6) δ 2.85 (s, 6H), 3.19-3.22 (m, 2H), 3.25-3.30 (m, 2H), 3.44-3.48 (m, 2H), 3.49 (q, 2H, J=6.8 Hz), 6.34 (s, 1H), 7.18 (dt, 1H, J1=2.8 Hz, J2=8.8 Hz), 7.50 (dd, 1H, J1=4.4 Hz, J2=8.8 Hz), 7.74 (dd, 1H, J1=2.8 Hz, J2=10.4 Hz), 8.39-8.44 (m, 2H), 9.36 (bs, 1H), 12.12 (s, 1H); m/z [M++1] 345.1.

reactant | (7-Fluoro-1-oxo-1,2,3,10-tetrahydro-azepino[3,4-b]indol-5-yl)-acetyl azide | FC=1C=C2C3=C(NC2=CC1)C(NCC=C3CC(=O)N=[N+]=[N-])=O | C14H10FN5O2
reactant | N,N-dimethylethylene-diamine | 0.17 mmol, 15 mg | CN(CCN)C | C4H12N2
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-dimethylamino-ethyl)-2-(7-fluoro-1-oxo-1,3,4,10-tetrahydro-2H-azepino[3,4-b]indol-5-ylidene)-acetamide | CN(CCNC(C=C1CCNC(C=2NC3=CC=C(C=C3C21)F)=O)=O)C | C18H21FN4O2
